US07700641B2
Synthesis of 4′-bromo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one
To a solution of 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one (1.80 g, 4.80 mmol) in anhydrous ethyl acetate (50 mL) was added tributylphosphine (1.26 g, 1.54 mL, 6.24 mmol) at 0° C. under nitrogen. A solution of di-tert-butyl azodicarboxylate (1.44 g, 6.24 mmol) in anhydrous ethyl acetate (15.0 mL) was added over 10 min. The reaction solution was stirred for 2 h, and then quenched with saturated ammonium chloride solution (30.0 mL). After the aqueous layer was separated, the organic layer was washed with 10% aqueous HCl solution (2×25.0 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography eluting with ethyl acetate-hexane (70%) to obtain a solid which was triturated with diethyl ether to give the title compound (0.64 g, 37%) as a colorless solid: 1H NMR (300 MHz, DMSO-d6) δ 10.77 (s, 1H), 7.18-7.13 (m, 1H), 7.08 (d, 1H), 6.90 (d, 1H), 6.47 (s, 1H), 6.30 (s, 1H), 4.80 (ABq, 2H), 4.46 (t, 2H), 2.92 (t, 2H); 13C NMR (75 MHz, DMSO-d6) δ 178.7, 162.2, 161.7, 144.5, 131.1, 131.0, 126.1, 119.8, 119.2, 119.1, 118.3, 109.7, 92.4, 77.6, 72.5, 59.2, 28.8; MS (ES−) m/z 358.4 (M−1), 356.3 (M−1).

reactant | 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | 4.80 mmol, 1.80 g | BrC1=C2C(C(NC2=CC=C1)=O)(CO)C=1C(=CC2=C(CCO2)C1)O | C17H14BrNO4
reactant | tributylphosphine | 6.24 mmol, 1.54 mL, 1.26 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | di-tert-butyl azodicarboxylate | 6.24 mmol, 1.44 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15.0 mL | C(C)(=O)OCC | C4H8O2
product | 4′-bromo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | 0.64 g, 37% | BrC1=C2C3(C(NC2=CC=C1)=O)C1=C(OC3)C=C3OCCC3=C1 | C17H12BrNO3
